US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidine (1.50 g, 3.53 mmol) (obtained as described in Reference Example 2(2)) in tetrahydrofuran (75 ml) were added succinimide (525 mg, 5.30 mmol), triphenylphosphine (1.39 g, 5.30 mmol) and 40% diethyl azodicarboxylate in toluene solution (2.03 ml, 5.30 mmol) in an ice bath under an atmosphere of nitrogen. The mixture was stirred in an ice bath for 4 hours. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (1:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-succinimidomethyl-1,3-thiazol-2-yl)azetidine (1.79 g, yield 100%) as pale yellow oil.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidine | 3.53 mmol, 1.50 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CO | C23H28N2O2SSi
reactant | succinimide | 5.30 mmol, 525 mg | C1(CCC(N1)=O)=O | C4H5NO2
reactant | triphenylphosphine | 5.30 mmol, 1.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | toluene | 5.30 mmol, 2.03 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 3-t-butyldiphenylsilyloxy-1-(4-succinimidomethyl-1,3-thiazol-2-yl)azetidine | 1.79 g, yield 100% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CN1C(CCC1=O)=O | C27H31N3O3SSi
